US06545161B2
Preparation of N-(2-amino-4-chloro-6-fluoro-3-propargyloxyphenyl)tetrahydrophthalimide (Compound no. 8-3)
A mixture of 2-amino-6-chloro-4-fluoro-3-(tetrahydrophthalimido)phenol (0.31 g), propargyl bromide (0.2 ml), potassium carbonate (0.14 g), and acetonitrile (5 ml) was heated under reflux for 0.5 hr. The solvent and excess reagent were removed under reduced pressure. The residue was purified by a silica gel column, eluted with ethyl acetate to give the title product (0.2 g).

reactant | 2-amino-6-chloro-4-fluoro-3-(tetrahydrophthalimido)phenol | 0.31 g | NC1=C(C(=CC(=C1N1C(C2C(C1=O)CCC=C2)=O)F)Cl)O | C14H12ClFN2O3
reactant | propargyl bromide | 0.2 ml | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(2-amino-4-chloro-6-fluoro-3-propargyloxyphenyl)tetrahydrophthalimide | 0.2 g | NC1=C(C(=CC(=C1OCC#C)Cl)F)N1C(C2C(C1=O)CCC=C2)=O | C17H14ClFN2O3
